US07291631B2
Using General Procedure A: Reaction of (5-chloro-3-methyl-pyridin-2-ylmethyl)-(1-methyl-1-pyridin-2-yl-ethyl)-amine in CH3CN with 2-bromomethyl-5-cyano-benzoic acid methyl ester, KI, and DIPEA gave 2-{[(5-chloro-3-methyl-pyridin-2-ylmethyl)-(1-methyl-1-pyridin-2-yl-ethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester as a pale yellow solid. 1H NMR (CDCl3) δ 1.60 (s, 6H), 2.17 (s, 3H), 3.80 (s, 2H), 3.91 (s, 3H), 4.24 (s, 2H), 7.10-7.12 (m, 2H), 7.47 (d, 1H, J=6.0 Hz), 7.63-7.65 (m, 1H), 7.77 (d, 2H, J=9.0 Hz), 7.88 (s, 1H), 8.03-8.09 (m, 2H), 8.56-8.57 (m, 1H).

reactant | (5-chloro-3-methyl-pyridin-2-ylmethyl)-(1-methyl-1-pyridin-2-yl-ethyl)-amine | ClC=1C=C(C(=NC1)CNC(C)(C1=NC=CC=C1)C)C | C15H18ClN3
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 2-{[(5-chloro-3-methyl-pyridin-2-ylmethyl)-(1-methyl-1-pyridin-2-yl-ethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CN(C(C)(C1=NC=CC=C1)C)CC1=NC=C(C=C1C)Cl)=O | C25H25ClN4O2
